US04595683
4-Methyl-3,5-bis-(3-methylphenoxy)-1,2,4,6-thiatriazine-1,1-dioxide
A solution of m-chloroperbenzoic acid (4.7 g) in chloroform (30 ml) is added at RT to a stirred solution of 4-methyl-3,5-bis-(3-methylphenoxy)1,2,4,6-thiatriazine-1-oxide (3.1 g) in chloroform (15 ml). The reaction mixture is refluxed for about 5 minutes and the precipitate taken up in methylene chloride, washed with sat'd aq. Na2CO3, brine, dried, filtered and evaporated to a solid. The solid is recrystallized from isopropyl acetate using charcoal, affording the desired product, M.P.=221°-223° C.

reactant | m-chloroperbenzoic acid | 4.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-methyl-3,5-bis-(3-methylphenoxy)1,2,4,6-thiatriazine-1-oxide | 3.1 g | CN1C(=NS(N=C1OC1=CC(=CC=C1)C)=O)OC1=CC(=CC=C1)C | C17H17N3O3S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Methyl-3,5-bis-(3-methylphenoxy)-1,2,4,6-thiatriazine-1,1-dioxide | CN1C(=NS(N=C1OC1=CC(=CC=C1)C)(=O)=O)OC1=CC(=CC=C1)C | C17H17N3O4S
